US08357679B2
A: 1,1,1,3,3,3-Hexafluoro-2-(4-((4-(3-nitrobenzyl)piperazin-1-yl)methyl)phenyl)propan-2-ol
To a stirred mixture of 1,1,1,3,3,3-hexafluoro-2-(4-(piperazin-1-ylmethyl)phenyl)-propan-2-ol (3.21 mmol, 1.1 g) and triethylamine (3.21 mmol, 0.448 ml, 0.325 g) in dichloromethane was added 1-(bromomethyl)-3-nitrobenzene (3.21 mmol, 0.694 g). The reaction was stirred for 20 hours then was diluted with dichloromethane and sodium hydrogen carbonate (aqueous). The organic layer was separated and poured onto a SCX column. The column was eluted with 2M ammonia in methanol and concentrated under reduced pressure to give the title compound (1 g). MS (ESI) m/z 478.1 [M+H]+

reactant | 1,1,1,3,3,3-hexafluoro-2-(4-(piperazin-1-ylmethyl)phenyl)-propan-2-ol | 3.21 mmol, 1.1 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)CN1CCNCC1)(F)F | C14H16F6N2O
reactant | triethylamine | 3.21 mmol, 0.448 ml, 0.325 g | C(C)N(CC)CC | C6H15N
reactant | 1-(bromomethyl)-3-nitrobenzene | 3.21 mmol, 0.694 g | BrCC1=CC(=CC=C1)[N+](=O)[O-] | C7H6BrNO2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 1,1,1,3,3,3-Hexafluoro-2-(4-((4-(3-nitrobenzyl)piperazin-1-yl)methyl)phenyl)propan-2-ol | 1 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)CN1CCN(CC1)CC1=CC(=CC=C1)[N+](=O)[O-])(F)F | C21H21F6N3O3
